US04018773
C. trans-3-Amino-1,2,3,4-tetrahydro-5,8dimethoxy-2-naphthalenol, hydrochloride (1:1)
A solution of 3.7 g of trans-3-amino-1,2,3,4-tetrahydro-5,8-dimethoxy-2-naphthalenol is isopropanol is converted to the hydrochloride salt by adding a solution of hydrogen chloride in isopropanol. The salt is precipitated by adding ether and recrystallized twice from isopropanol to give 1.3 g of the title compound, melting point 213°-216° C.

reactant | trans-3-amino-1,2,3,4-tetrahydro-5,8-dimethoxy-2-naphthalenol | 3.7 g | N[C@H]1[C@@H](CC2=C(C=CC(=C2C1)OC)OC)O | C12H17NO3
reactant | hydrogen chloride | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
product | trans-3-Amino-1,2,3,4-tetrahydro-5,8dimethoxy-2-naphthalenol, hydrochloride | 1.3 g | Cl.N[C@H]1[C@@H](CC2=C(C=CC(=C2C1)OC)OC)O | InChI=1S/C12H17NO3.ClH/c1-15-11-3-4-12(16-2)8-6-10(14)9(13)5-7(8)11;/h3-4,9-10,14H,5-6,13H2,1-2H3;1H/t9-,10-;/m1./s1
